US04427590
A solution of 10.0 g of 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine and 4.85 g of 2-methoxyacetic acid hydrazide (cp. E. J. Browne and J. B. Polya, J.Chem.Soc. 1962, 5149-5152) in 70 ml of abs. hexamethylphosphoric acid triamide is heaated for 11 hours at 140°. The solvent is then distilled off in vacuo. The residue is taken up in methylene chloride; the solution is washed with water and then with saturated sodium chloride solution, dried over sodium sulphate, and concentrated by evaporation. Crystallisation of the concentration residue from ethyl acetate/petroleum ether yields 1-(methoxymethyl)-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine, M.P. 185°-191°. After chromatography of the mother liquor on 100 g of silica gel "Merck", a further amount of final product of the same melting point can be isolated.

reactant | 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine | 10.0 g | CSC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C16H13ClN2S
reactant | 2-methoxyacetic acid hydrazide | 4.85 g | COCC(=O)NN | C3H8N2O2
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-(methoxymethyl)-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | COCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C18H15ClN4O
